US07495007B2
To a solution E/Z-6-chloro-3-(5-chloro-2-isopropoxy-benzylidene)-1,3-dihydro-indol-2-one (3.4 g, 9.8 mmol) in dichloromethane (50 mL) at r.t was added ditert-butyl-dicarbonate (2.56 g, 11.7 mmol), followed by the addition of 4-dimethylaminopyridine (0.12 g, 1 mmol). The reaction mixture was stirred at r.t. for 0.5 h, then the mixture was washed with 0.5N HCl aqueous solution. The organic layer was separated, dried and concentrated to give E/Z-6-chloro-3-(5-chloro-2-isopropoxy-benzylidene)-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester as a yellow oil. (4.2 g).

reactant | Z-6-chloro-3-(5-chloro-2-isopropoxy-benzylidene)-1,3-dihydro-indol-2-one | 9.8 mmol, 3.4 g | ClC1=CC=C2/C(/C(NC2=C1)=O)=C/C1=C(C=CC(=C1)Cl)OC(C)C | C18H15Cl2NO2
reactant | ditert-butyl-dicarbonate | 11.7 mmol, 2.56 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 1 mmol, 0.12 g | CN(C1=CC=NC=C1)C | C7H10N2
product | Z-6-chloro-3-(5-chloro-2-isopropoxy-benzylidene)-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(\C(\C2=CC=C(C=C12)Cl)=C/C1=C(C=CC(=C1)Cl)OC(C)C)=O | C23H23Cl2NO4
